US09446394B2
A solution of (4S,7R,8S,9S,16S,Z)-4,8-Bis((tert-butyldimethylsilyl)oxy)-5,5,7,9-tetramethyl-16-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)oxacyclohexadec-13-ene-2,6-dione (26.2 mg, 37.1 μmol) in THF (3.6 ml) in a plastic vial was treated with HF-pyridine complex (70% HF, 1.09 mL). The reaction mixture was stirred at 22° C. for 36 h, diluted with DCM and quenched by NaHCO3 (sat.). The aqueous layer was extracted with DCM (2×). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. Purification on SiO2 (hexanes: diethyl ether 2:1 to 1:1) afforded 15.2 mg (81%, Z:E=95:5) of epothilone C as a colorless solid together with 2.6 mg of mono-desilylated product.

reactant | (4S,7R,8S,9S,16S,Z)-4,8-Bis((tert-butyldimethylsilyl)oxy)-5,5,7,9-tetramethyl-16-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)oxacyclohexadec-13-ene-2,6-dione | 37.1 μmol, 26.2 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(O[C@@H](C\C=C/CCC[C@@H]([C@@H]([C@H](C(C1(C)C)=O)C)O[Si](C)(C)C(C)(C)C)C)/C(=C/C=1N=C(SC1)C)/C)=O | C38H67NO5SSi2
solvent | THF | 3.6 ml | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | epothilone C | 15.2 mg, 81% | CC1=NC(=CS1)/C=C(\C)/[C@@H]2C/C=C\CCC[C@@H]([C@@H]([C@H](C(=O)C([C@H](CC(=O)O2)O)(C)C)C)O)C | C26H39NO5S
